US05786356
6-bromo-2-tetralone (2.0 g, 8.89 mmol) was dissolved in toluene (50 mL) and treated with excess ethylene glycol (4.88 mL, 88.9 mmol) and catalytic p-toluenesulfonic acid (15 mg). The solution was stirred at reflux 16 hours, and water was removed from the reaction mixture using a Dean-Stark condenser. After cooling to ambient temperature, the toluene solution was washed 2×1N NaOH, 1 × water, 1 × brine, dried over Na2SO4 and concentrated in vacuo to give 2.23 g (93%) of 6-bromo-2-tetralone ethylene ketal as a brown oil which was used without further purification.

reactant | 6-bromo-2-tetralone | 8.89 mmol, 2.0 g | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | ethylene glycol | 88.9 mmol, 4.88 mL | C(CO)O | C2H6O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 15 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 6-bromo-2-tetralone ethylene ketal | 2.23 g, 93% | C1COC2(CC3=CC=C(C=C3CC2)Br)O1 | C12H13BrO2
